### PR TITLE
feat: fill in some prerequisites

### PR DESCRIPTION
**Pull request by dannyply**
This fills in selected sorries in finite-field, convolution, Hölder/Lp norm, weighted norm, and Marcinkiewicz-Zygmund prerequisite files.

The changes are limited to proof terms and small import adjustments needed by those proofs.

This PR does not attempt to make every touched file `sorry`-free. Some unrelated/pre-existing `sorry`s remain in:
- `APAP/FiniteField.lean`
- `APAP/Prereqs/LpNorm/Weighted.lean`
- `APAP/Prereqs/NewMarcinkiewiczZygmund.lean`

Note: These proofs were produced with assistance from a prototype agentic Lean proof-search system and then locally reviewed and verified.

### CODE REVIEW

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 1]
```diff
@@ -56,7 +56,43 @@ theorem marcinkiewicz_zygmund_symmetric (iIndepFun_X : iIndepFun X μ)
   -- Turn the `L^p` assumption on the `X i` into various integrability conditions.
   have integrable_prod_norm_X I (hI : I ∈ A ×ˢ A ^^ m) :
     Integrable (fun ω ↦ ∏ k, ‖X (I k).1 ω‖ * ‖X (I k).2 ω‖) μ := by
-    sorry
+    by_cases hm : m = 0
+    · subst hm
+      have : (fun ω : Ω ↦ ∏ k : Fin 0, ‖X (I k).1 ω‖ * ‖X (I k).2 ω‖) = fun _ => 1 := by
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]:
```suggestion
    obtain rfl | hm := eq_or_ne m 0
    · have : (fun ω : Ω ↦ ∏ k : Fin 0, ‖X (I k).1 ω‖ * ‖X (I k).2 ω‖) = fun _ => 1 := by
```

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 2]
```diff
@@ -56,7 +56,43 @@ theorem marcinkiewicz_zygmund_symmetric (iIndepFun_X : iIndepFun X μ)
...
+        funext ω; simp
+      rw [this]
+      exact integrable_const 1
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]: Does something like this work?
```suggestion
      simp [integrable_const]
```

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 3]
```diff
@@ -56,7 +56,43 @@ theorem marcinkiewicz_zygmund_symmetric (iIndepFun_X : iIndepFun X μ)
...
+    rw [show (fun ω ↦ ∏ k : Fin m, ‖X (I k).1 ω‖ * ‖X (I k).2 ω‖)
+         = fun ω ↦ (∏ k : Fin m, ‖X (I k).1 ω‖) * (∏ k : Fin m, ‖X (I k).2 ω‖)
+       from funext fun _ => Finset.prod_mul_distrib]
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]:
```suggestion
    simp_rw [Finset.prod_mul_distrib]
```

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 4]
```diff
@@ -56,7 +56,43 @@ theorem marcinkiewicz_zygmund_symmetric (iIndepFun_X : iIndepFun X μ)
...
+        MemLp (fun ω => ‖X (I k).2 ω‖) (2 * (m : ℝ≥0∞)) μ := by
+      intro k _
+      have hk := Fintype.mem_piFinset.mp hI k
+      simp only [Finset.mem_product] at hk
+      exact (memLp_X _ hk.2).norm
+    have M1 := MemLp.prod' h1
+    have M2 := MemLp.prod' h2
+    have hm' : (m : ℝ≥0∞) ≠ 0 := by exact_mod_cast hm
+    have hmtop : (m : ℝ≥0∞) ≠ ⊤ := ENNReal.natCast_ne_top _
+    have heq2 : (∑ _k ∈ (univ : Finset (Fin m)), (2 * (m : ℝ≥0∞))⁻¹)⁻¹ = 2 := by
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]:
```suggestion
    have heq2 : (∑ _k : Fin m, (2 * (m : ℝ≥0∞))⁻¹)⁻¹ = 2 := by
```

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 5]
```diff
@@ -56,7 +56,43 @@ theorem marcinkiewicz_zygmund_symmetric (iIndepFun_X : iIndepFun X μ)
...
+      simp only [Finset.sum_const, Finset.card_univ, Fintype.card_fin, nsmul_eq_mul]
+      rw [ENNReal.mul_inv (Or.inl (by norm_num : (2:ℝ≥0∞) ≠ 0))
+          (Or.inl (by norm_num : (2:ℝ≥0∞) ≠ ⊤)),
+          mul_comm (2 : ℝ≥0∞)⁻¹, ← mul_assoc, ENNReal.mul_inv_cancel hm' hmtop,
+          one_mul, inv_inv]
+    rw [heq2] at M1 M2
+    haveI : ENNReal.HolderTriple (2 : ℝ≥0∞) 2 1 := ⟨by
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]:
```suggestion
    have : ENNReal.HolderTriple (2 : ℝ≥0∞) 2 1 := ⟨by
```

File: APAP/Prereqs/FourierTransform/Convolution.lean [hunk 6]
```diff
@@ -44,8 +44,33 @@ lemma cLpNorm_cconv_le_cLpNorm_cdconv (hn₀ : n ≠ 0) (hn : Even n) (f : G →
...
       _ = ‖𝔼 x, (∏ i, φ i x) * ∏ i, (ψ i) (-x)‖ := by simp [map_neg_eq_conj, AddChar.sub_apply]
 
+omit [AddCommGroup G] [DecidableEq G] in
+lemma cLpNorm_pow_eq_card_inv_mul_dLpNorm_pow (hn₀ : n ≠ 0) (f : G → ℂ) :
+    ‖f‖ₙ_[n] ^ n = (Fintype.card G : ℝ)⁻¹ * ‖f‖_[n] ^ n := by
+  rw [cLpNorm_pow_eq_expect_norm hn₀, dLpNorm_pow_eq_sum_norm hn₀]
+  simp [Fintype.expect_eq_sum_div_card, div_eq_mul_inv, mul_comm]
+
+omit [AddCommGroup G] [DecidableEq G] [DiscreteMeasurableSpace G] in
+lemma dLpNorm_card_inv_nnnat_smul (f : G → ℂ) :
```
Comment (YaelDillies) [inline APAP/Prereqs/FourierTransform/Convolution.lean]:
```suggestion
lemma dLpNorm_card_inv_nnrat_smul (f : G → ℂ) :
```

File: APAP/Prereqs/Inner/Hoelder/Compact.lean [hunk 7]
```diff
@@ -138,7 +154,9 @@ lemma cLpNorm_prod_le {ι : Type*} {s : Finset ι} (hs : s.Nonempty) {p : ι →
   | cons i s hi hs ih =>
   simp_rw [prod_cons]
   rw [sum_cons, ← inv_inv (∑ _ ∈ _, _)] at hpq
-  have : ENNReal.HolderTriple (p i) ↑(∑ i ∈ s, (p i)⁻¹)⁻¹ q := ⟨sorry⟩
+  have : ENNReal.HolderTriple (p i) ↑(∑ i ∈ s, (p i)⁻¹)⁻¹ q := ⟨by
+    simpa [ENNReal.coe_inv (by simpa [hp] :
+      (∑ j ∈ s, (p j)⁻¹ : ℝ≥0) ≠ 0), ENNReal.coe_inv, hp] using hpq⟩
```
Comment (YaelDillies) [inline APAP/Prereqs/Inner/Hoelder/Compact.lean]:
```suggestion
  have : ENNReal.HolderTriple (p i) ↑(∑ i ∈ s, (p i)⁻¹)⁻¹ q := by
    have : (∑ j ∈ s, (p j)⁻¹ : ℝ≥0) ≠ 0 := by simpa [hp]
    constructor
    simpa [ENNReal.coe_inv, *] using hpq
```

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean [hunk 8]
```diff
@@ -3,7 +3,10 @@ module
 public import APAP.Prereqs.LpNorm.Discrete.Defs
 public import Mathlib.Analysis.RCLike.Inner
 
+import Mathlib.MeasureTheory.Function.LpSeminorm.CompareExp
+import Mathlib.MeasureTheory.Function.LpSeminorm.LpNorm
 import Mathlib.MeasureTheory.Integral.Bochner.Basic
+import Mathlib.MeasureTheory.Measure.Count
```
Comment (YaelDillies) [inline APAP/Prereqs/Inner/Hoelder/Discrete.lean]: Do you really need all these new imports?

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean [hunk 9]
```diff
@@ -45,10 +48,40 @@ lemma dL1Norm_mul_of_nonneg (hf : 0 ≤ f) (hg : 0 ≤ g) : ‖f * g‖_[1] = 
...
-lemma wInner_one_le_dLpNorm_mul_dLpNorm (p q : ℝ≥0∞) [p.HolderConjugate q] :
+lemma wInner_one_le_dLpNorm_mul_dLpNorm (p q : ℝ≥0∞) [hpq : p.HolderConjugate q] :
     ⟪f, g⟫_[ℝ] ≤ ‖f‖_[p] * ‖g‖_[q] := by
-  sorry
-  -- simpa [wInner_one_eq_sum, dLpNorm_eq_sum_nnnorm, *] using inner_le_Lp_mul_Lq _ f g _
+  have hp0 : p ≠ 0 := ENNReal.HolderConjugate.ne_zero p q
+  have hq0 : q ≠ 0 := ENNReal.HolderConjugate.ne_zero q p
+  have hwInner : ⟪f, g⟫_[ℝ] = ∑ i, f i * g i := by
+    rw [wInner_one_eq_sum]
+    refine Finset.sum_congr rfl fun i _ ↦ ?_
```
Comment (YaelDillies) [inline APAP/Prereqs/Inner/Hoelder/Discrete.lean]:
```suggestion
    congr! with i
```

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean [hunk 10]
```diff
@@ -45,10 +48,40 @@ lemma dL1Norm_mul_of_nonneg (hf : 0 ≤ f) (hg : 0 ≤ g) : ‖f * g‖_[1] = 
...
 /-- **Hölder's inequality**, binary case. -/
-lemma wInner_one_le_dLpNorm_mul_dLpNorm (p q : ℝ≥0∞) [p.HolderConjugate q] :
+lemma wInner_one_le_dLpNorm_mul_dLpNorm (p q : ℝ≥0∞) [hpq : p.HolderConjugate q] :
     ⟪f, g⟫_[ℝ] ≤ ‖f‖_[p] * ‖g‖_[q] := by
-  sorry
-  -- simpa [wInner_one_eq_sum, dLpNorm_eq_sum_nnnorm, *] using inner_le_Lp_mul_Lq _ f g _
+  have hp0 : p ≠ 0 := ENNReal.HolderConjugate.ne_zero p q
+  have hq0 : q ≠ 0 := ENNReal.HolderConjugate.ne_zero q p
+  have hwInner : ⟪f, g⟫_[ℝ] = ∑ i, f i * g i := by
+    rw [wInner_one_eq_sum]
```
Comment (YaelDillies) [inline APAP/Prereqs/Inner/Hoelder/Discrete.lean]:
```suggestion
    simp [wInner_one_eq_sum, mul_comm]
```
no?

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean [hunk 11]
```diff
@@ -45,10 +48,40 @@ lemma dL1Norm_mul_of_nonneg (hf : 0 ≤ f) (hg : 0 ≤ g) : ‖f * g‖_[1] = 
...
+    refine Finset.sum_congr rfl fun i _ ↦ ?_
+    change (inner ℝ (f i) (g i) : ℝ) = f i * g i
+    exact mul_comm (g i) (f i)
+  have hfg : ∀ i, f i * g i ≤ ‖f i‖ * ‖g i‖ := fun i =>
+    (le_abs_self _).trans_eq (by rw [abs_mul]; simp [Real.norm_eq_abs])
+  by_cases hpi : p = ∞
+  · have hq1 : q = 1 := (ENNReal.HolderConjugate.eq_top_iff_eq_one p q).mp hpi
+    subst hpi; subst hq1
```
Comment (YaelDillies) [inline APAP/Prereqs/Inner/Hoelder/Discrete.lean]:
```suggestion
  obtain rfl | hpi := eq_or_ne p ∞
  · obtain rfl : q = 1 := (ENNReal.HolderConjugate.eq_top_iff_eq_one p q).mp hpi
```

**Review by YaelDillies — COMMENTED** [review]
Hopefully you can golf more proofs similarly

**Comment by dannyply** [comment]
Thanks, I pushed a cleanup commit applying your suggestions where they compiled. I removed two unnecessary imports and reran lake build. I left two proofs explicit because the suggested simp versions did not close the goals in my local context.

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean (hunk 10 above)
Comment (dannyply) [reply APAP/Prereqs/Inner/Hoelder/Discrete.lean]: I tested this locally. It builds, but it triggers linter warnings (mul_comm is unused, and the simp is flagged as flexible), so I left the explicit rw version.

File: APAP/Prereqs/Inner/Hoelder/Discrete.lean (hunk 9 above)
Comment (dannyply) [reply APAP/Prereqs/Inner/Hoelder/Discrete.lean]: I tested this locally too, but congr! with i does not close the goal in this context, so I kept the explicit Finset.sum_congr proof.

**Review by YaelDillies — APPROVED** [review]
Thanks! Looking good
